US06506901B2
Step B: N-Benzyloxycarbonyl-4-formylpiperidine
An ice cold solution of N-benzyloxycarbonyl-4-hydroxymethylpiperidine (2.5 g, 10 mmol) in 100 mL CH2Cl2 is treated with pyridinium chlorochromate (3.23 g, 15 mmol). The reaction is stirred at ambient temperature for 3 hours. The mixture was diluted with 100 mL Et2O and filtered through a plug of silica. The filtrate was concentrated in vacuo to provide 2.3 g of the title compound as a pale green liquid.

reactant | N-benzyloxycarbonyl-4-hydroxymethylpiperidine | 10 mmol, 2.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CO | C14H19NO3
reactant | pyridinium chlorochromate | 15 mmol, 3.23 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | N-Benzyloxycarbonyl-4-formylpiperidine | 2.3 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=O | C14H17NO3
